US05624950
A suspension of 3.1 g of (3aRS,4RS,6SR,7aSR)-2-benzyl-6-hydroxymethyl-4-(2-methoxyphenyl)-4-perhydroisoindolol and 0.5 g of 20% palladium hydroxide on charcoal in 75 cm3 of ethanol is hydrogenated at atmospheric pressure for 3 hours at 60° C. The reaction mixture is subsequently filtered and evaporated to dryness under reduced pressure (2.7 kPa). 3.0 g of (3aRS,4RS, 6SR, 7aSR)-6-hydroxyethyl-4-(2-methoxyphenyl)-4-perhydroisoindolol are obtained in the form of a white foam.

reactant | (3aRS,4RS,6SR,7aSR)-2-benzyl-6-hydroxymethyl-4-(2-methoxyphenyl)-4-perhydroisoindolol | 3.1 g | C(C1=CC=CC=C1)N1CC2CC(CC(C2C1)(O)C1=C(C=CC=C1)OC)CO | C23H29NO3
reactant | ethanol | 75 cm3 | C(C)O | C2H6O
catalyst | palladium hydroxide on charcoal | 0.5 g | [OH-].[OH-].[Pd+2]
product | 6-hydroxyethyl-4-(2-methoxyphenyl)-4-perhydroisoindolol | OCCC1CC(C2CNCC2C1)(O)C1=C(C=CC=C1)OC | C17H25NO3
